US06762320B2
N-[4-(3-Fluoro-benzyloxy)-phenyl]-2-hydrazinocarbonyl-acetamide
A suspension of 0.35 g (1.1 mmol) of N-[4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester in 7 ml methanol is treated with 83 mg (1.7 mmol) of hydrazine hydrate. The reaction mixture is refluxed for 2 h, then another portion of 300 mg (6 mmol) of hydrazine hydrate is added and reflux is pursued for another 8 h. The mixture is cooled and hold overnight in the frig. The precipitate is filtered off and recrystallised from methanol to yield 0.043 g (12%) of filthy, colorless needles. MS: m/e=318.3 (M++H).

reactant | N-[4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester | 1.1 mmol, 0.35 g | COC(CC(=O)NC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | C17H16FNO4
reactant | hydrazine hydrate | 1.7 mmol, 83 mg | O.NN
reactant | hydrazine hydrate | 6 mmol, 300 mg | O.NN
solvent | methanol | 7 ml | CO | CH4O
product | N-[4-(3-Fluoro-benzyloxy)-phenyl]-2-hydrazinocarbonyl-acetamide | FC=1C=C(COC2=CC=C(C=C2)NC(CC(=O)NN)=O)C=CC1 | C16H16FN3O3
